US07935815B2
Synthesis of (E)-N-[3-(4-bromophenyl)-2-oxopiperidin-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
BOPCl (1.18 g) was added to a suspension of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (800 mg), 1-amino-3-(4-bromophenyl)piperidin-2-one (898 mg) and TEA (0.9 mL) in DMF (20 mL), and the reaction solution was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture and the organic layer was separated. The resulting organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: ethyl acetate-methanol system) to obtain 1.484 g of the title compound. The property values of the compound are as follows.

reactant | BOPCl | 1.18 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 800 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | 1-amino-3-(4-bromophenyl)piperidin-2-one | 898 mg | NN1C(C(CCC1)C1=CC=C(C=C1)Br)=O | C11H13BrN2O
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-[3-(4-bromophenyl)-2-oxopiperidin-1-yl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 1.484 g | BrC1=CC=C(C=C1)C1C(N(CCC1)NC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)=O | C25H25BrN4O3
